
.SUBCKT TB-5050      1 2 3 4 5 6
D1 1 2 LEDr
D2 3 4 LEDg
D3 5 6 LEDb

.model LEDr D(Is={40m/exp(2.12/(2.6*26m))} Rs=.85 N=2.6 Cjo=1.18n Xti=200)
.model LEDg D(Is={40m/exp(3.1/(2.6*26m))} Rs=.85 N=2.6 Cjo=1.18n Xti=200)
.model LEDb D(Is={40m/exp(3.3/(2.6*26m))} Rs=.85 N=2.6 Cjo=1.18n Xti=200)
.ends
